US08222245B2
1,1-Dimethylethyl 6-{[(trifluoromethyl)sulfonyl]oxy}-1,2,4,5-tetrahydro-3H-3-benzazepine-3-carboxylate
To a stirred solution of 1,1-dimethylethyl 6-hydroxy-1,2,4,5-tetrahydro-3H-3-benzazepine-3-carboxylate (may be prepared as described in WO2006/002928) (6.545 g) in dry DCM (100 ml) under argon at −10° C. was added triethylamine (4 ml). After 10 minutes trifluoromethanesulfonic anhydride (4.7 ml) was added dropwise over 10 minutes. The colourless solution turned amber then red. The reaction was allowed to reach RT over 30 minutes then stirred at RT for 18 hours. Then the reaction was poured onto saturated sodium carbonate solution (100 ml) and the DCM layer collected, dried and evaporated. The title compound (5 g) was obtained by chromatography (eluting with DCM). δH (400 MHz, CDCl3) 7.22-7.12 (3H, m), 3.59-3.57 (4H, m), 3.01-2.99 (4H, m), 1.48 (9H, s); MS (ES) C16H20F3NO5S requires 395; found 340 [M+H−56]+.

reactant | 1,1-dimethylethyl 6-hydroxy-1,2,4,5-tetrahydro-3H-3-benzazepine-3-carboxylate | 6.545 g | OC1=CC=CC=2CCN(CCC21)C(=O)OC(C)(C)C | C15H21NO3
reactant | triethylamine | 4 ml | C(C)N(CC)CC | C6H15N
reactant | trifluoromethanesulfonic anhydride | 4.7 ml | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | sodium carbonate | 100 ml | C([O-])([O-])=O.[Na+].[Na+]
solvent | DCM | 100 ml | C(Cl)Cl | CH2Cl2
product | 1,1-Dimethylethyl 6-{[(trifluoromethyl)sulfonyl]oxy}-1,2,4,5-tetrahydro-3H-3-benzazepine-3-carboxylate | 5 g | FC(S(=O)(=O)OC1=CC=CC=2CCN(CCC21)C(=O)OC(C)(C)C)(F)F | C16H20F3NO5S
